US06245746B1
(A) Nα-Boc-Nδ-Fmoc-Nα-Methylornithine 2,2-Diphenylethylamide
Using Procedure A, Nα-Boc-Nδ-Fmoc-Nα-methylornithine and 2,2-diphenylethylamine afforded a colorless solid: 1H NMR (400 MHz, CDCl3) δ1.39 (s, 10H), 1.57 (m, 2H), 1.77 (m, 1H), 1.98 (m, 1H), 2.50 (s, 3H), 3.19 (m, 2H), 3.80 (m, 1H), 4.00 (m, 1H), 4.19 (t, J=9.5 Hz, 1H), 4.22 (m, 1H), 4.40 (d, J=7.2 Hz, 2H), 4.46 (m, 1H), 7.20-7.34 (m, 12H), 7.41 (t, J=6.6 Hz, 2H), 7.60 (d, J=8.0 Hz, 2H), and 7.79 (d, J=8.5 Hz, 2H).

reactant | Nα-Boc-Nδ-Fmoc-Nα-methylornithine | C(=O)(OC(C)(C)C)N([C@@H](CCCNC(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12)C(=O)O)C | C26H32N2O6
reactant | 2,2-diphenylethylamine | C1(=CC=CC=C1)C(CN)C1=CC=CC=C1 | C14H15N
product | Nα-Boc-Nδ-Fmoc-Nα-Methylornithine 2,2-Diphenylethylamide | C1(=CC=CC=C1)C(CNC([C@@H](N(C)C(=O)OC(C)(C)C)CCCNC(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12)=O)C1=CC=CC=C1 | C40H45N3O5
